US04880790
A mixture of 38.2 g of bis(2-chloroethyl)sulfone, 13.2 g of malononitrile, 55.28 g of potassium carbonate and 800 ml of acetonitrile is refluxed on a steam bath for 24 hours, then filtered while hot. The filtrate is evaporated and the residue crystallized with charcoal treatment from 100 ml of ethanol, giving 10.6 g of tetrahydro-4H-thiopyran-4,4-dicarbonitrile, 1,1-dioxide as colorless crystals.

reactant | bis(2-chloroethyl)sulfone | 38.2 g | ClCCS(=O)(=O)CCCl | C4H8Cl2O2S
reactant | malononitrile | 13.2 g | C(CC#N)#N | C3H2N2
reactant | potassium carbonate | 55.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 800 ml | C(C)#N | C2H3N
product | tetrahydro-4H-thiopyran-4,4-dicarbonitrile | 10.6 g | S1CCC(CC1)(C#N)C#N | C7H8N2S
